US07153958B2
Hydrazine (4.5 ml) was added at room temperature to a mixture of 5-(3-chlorophenyl)-7-[(4-chlorophenyl)hydroxy(1-methyl-1H-imidazol-5-yl)methyl]-1,5-dihydro-4,1-benzothiazepine-2(3H)-thione (described in Example B14) (0.0085 mol) in THF (50 ml). The mixture was stirred at room temperature for 30 min, poured out into ice water, saturated with NaCl and extracted with DCM. The organic layer was separated, dried (MgSO4), filtered and the solvent was evaporated till dryness, yielding 4.3 g (96.4%) of 5-(3-chlorophenyl)-α-(4-chlorophenyl)-2-hydrazino-3,5dihydro-α-(1-methyl-1H-imidazol-5-yl)-4,1-benzothiazepine-7-methanol.

reactant | Hydrazine | 4.5 ml | NN | H4N2
reactant | 5-(3-chlorophenyl)-7-[(4-chlorophenyl)hydroxy(1-methyl-1H-imidazol-5-yl)methyl]-1,5-dihydro-4,1-benzothiazepine-2(3H)-thione | 0.0085 mol | ClC=1C=C(C=CC1)C1SCC(NC2=C1C=C(C=C2)C(C2=CN=CN2C)(O)C2=CC=C(C=C2)Cl)=S | C26H21Cl2N3OS2
reactant | NaCl | [Na+].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-(3-chlorophenyl)-α-(4-chlorophenyl)-2-hydrazino-3,5dihydro-α-(1-methyl-1H-imidazol-5-yl)-4,1-benzothiazepine-7-methanol | 4.3 g, 96.4% | ClC=1C=C(C=CC1)C1SCC(=NC2=C1C=C(C=C2)C(O)(C2=CN=CN2C)C2=CC=C(C=C2)Cl)NN | C26H23Cl2N5OS
